US05095013
(2S,4S)-N-Allyloxycarbonyl-2-[(E)-2-[4-(allyloxycarbonyl)piperazinvlcarbonyl]vinyl]-4-mercaptopyrrolidine
The same operation as in Reference Example 4-2) was carried out by using (2S,4S)-N-allyloxycarbonyl-2-[(E)-2-[4-(allyloxycarbonyl)piperazinylcarbonyl]vinyl]-4-tritylthiopyrrolidine (the compound obtained in Reference Example 8-1); 1.97 g, 3.02 mmol) and triethylsilane (0.51 ml, 3.17 mmol), followed by flash column chromatographic purification on silica gel (Wakogel® C-300, 40 ml, elution with acetone-ethyl acetate 1:2) to give the title compound (1.24 g, 100% yield) as an oil.

reactant | (2S,4S)-N-allyloxycarbonyl-2-[(E)-2-[4-(allyloxycarbonyl)piperazinylcarbonyl]vinyl]-4-tritylthiopyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C(=O)N1CCN(CC1)C(=O)OCC=C | C38H41N3O5S
reactant | triethylsilane | 3.17 mmol, 0.51 ml | C(C)[SiH](CC)CC | C6H16Si
product | (2S,4S)-N-Allyloxycarbonyl-2-[(E)-2-[4-(allyloxycarbonyl)piperazinvlcarbonyl]vinyl]-4-mercaptopyrrolidine | 1.24 g, 100% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)\C=C\C(=O)N1CCN(CC1)C(=O)OCC=C | C19H27N3O5S
